US08258169B2
To a solution of 3-(2,4,6-trichloro-phenyl)-propionaldehyde (0.45 g, 1.8 mmol) in methanol (5 ml), triethylamine (0.4 ml, 2.8 mmol) followed by O-methylhydroxylamine-hydrochloride (0.24 g, 2.8 mmol) was added and the mixture was heated at 60° C. for 2 hours. When the TLC confirmed the completion of the reaction, the reaction mass was allowed to attain ambient temperature and quenched with water and methanol was removed with a rotavapor. The resulting aqueous solution was extracted with ethyl acetate (3×30 ml). The combined ethyl acetate layers were washed with water and dried over sodium sulfate before complete evaporation of the solvents to give the crude mass. The resulting crude mass was purified over column chromatography (silica gel 60-120 mesh, 1% ethyl acetate in hexane) to afford 3-(2,4,6-trichloro-phenyl)-propionaldehyde O-methyl-oxime (0.5 g, 80%)

reactant | 3-(2,4,6-trichloro-phenyl)-propionaldehyde | 1.8 mmol, 0.45 g | ClC1=C(C(=CC(=C1)Cl)Cl)CCC=O | C9H7Cl3O
reactant | triethylamine | 2.8 mmol, 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | O-methylhydroxylamine-hydrochloride | 2.8 mmol, 0.24 g | Cl.CON
solvent | methanol | 5 ml | CO | CH4O
product | 3-(2,4,6-trichloro-phenyl)-propionaldehyde O-methyl-oxime | 0.5 g, 80% | CON=CCCC1=C(C=C(C=C1Cl)Cl)Cl | C10H10Cl3NO
